US06548459B2
300 g of technical cashew nut shell liquid and 500 ml of xylene was charged to a 2 liter reactor equipped with agitator and condenser. The contents were warmed to 40 degree C. Subsequently 168 g of potassium hydroxide was added to the reactor and stirred for 40 minutes. Later, 94 g of chloro acetic acid was added slowly in 30 minutes. After the completion of addition of reactants, the reaction mixture was refluxed for 6 hours. On completion of the reaction, the solvent was removed and contents taken in water and acidified with dilute sulfuric acid. The mixture was extracted with hexane to yield semi solid CNSL phenoxy acetic acid.

reactant | potassium hydroxide | 168 g | [OH-].[K+]
reactant | chloro acetic acid | 94 g | ClCC(=O)O | C2H3ClO2
reactant | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | phenoxy acetic acid | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
